US05650410
According to the same manner as that described in Example 33, ethyl 2-chloromethyl-4-(4-chlorophenyl)-6,7-dimethoxyquinoline-3-carboxylate was reacted with diethylamine to give ethyl 4-(4-chlorophenyl)-2-(N,N-diethylaminomethyl)-6,7-dimethoxyquinoline-3-carboxylate. This compound was recrystallized from ethyl acetate - hexane. Colorless prisms, mp. 82°-83° C.

reactant | ethyl 2-chloromethyl-4-(4-chlorophenyl)-6,7-dimethoxyquinoline-3-carboxylate | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC=C(C=C1)Cl)OC)OC | C21H19Cl2NO4
reactant | diethylamine | C(C)NCC | C4H11N
product | ethyl 4-(4-chlorophenyl)-2-(N,N-diethylaminomethyl)-6,7-dimethoxyquinoline-3-carboxylate | ClC1=CC=C(C=C1)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN(CC)CC)C(=O)OCC | C25H29ClN2O4
